US09340507B2
1-Isopropyl-6-methyl-4-oxo-5-(3-trifluoromethyl-phenyl)-1,4-dihydro-pyridine-3-carboxylic acid (5-methyl-[1,3,4]oxadiazol-2-ylmethyl)-amide
A solution of 1-isopropyl-6-methyl-4-oxo-5-(3-trifluoromethyl-phenyl)-1,4-dihydro-pyridine-3-carboxylic acid (preparation 3, 65 mg, 0.192 mmol), TBTU (75 mg, 0.232 mmol), N-methylmorpholine (42 μL, 0.383 mmol) in DMF (1 mL) is stirred for 15 min at room temperature. C-(5-Methyl-[1,3,4]oxadiazol-2-yl)-methylamine (24 mg, 0.211 mmol) is added and the reaction mixture is stirred for 18 h at room temperature. The reaction mixture is purified by preparative reversed-phase HPLC (Sunfire, gradient of acetonitrile in water, 0.1% TFA, 60° C.). Yield: 6 mg (7% of theory); ESI mass spectrum: [M+H]+=435; Retention time HPLC: 0.86 min (Z018_S04).

reactant | 1-isopropyl-6-methyl-4-oxo-5-(3-trifluoromethyl-phenyl)-1,4-dihydro-pyridine-3-carboxylic acid | 0.192 mmol, 65 mg | C(C)(C)N1C=C(C(C(=C1C)C1=CC(=CC=C1)C(F)(F)F)=O)C(=O)O | C17H16F3NO3
reactant | TBTU | 0.232 mmol, 75 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-methylmorpholine | 0.383 mmol, 42 μL | CN1CCOCC1 | C5H11NO
reactant | C-(5-Methyl-[1,3,4]oxadiazol-2-yl)-methylamine | 0.211 mmol, 24 mg | CC1=NN=C(O1)CN | C4H7N3O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-Isopropyl-6-methyl-4-oxo-5-(3-trifluoromethyl-phenyl)-1,4-dihydro-pyridine-3-carboxylic acid (5-methyl-[1,3,4]oxadiazol-2-ylmethyl)-amide | CC1=NN=C(O1)CNC(=O)C1=CN(C(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)C)C(C)C | C21H21F3N4O3
